US06998412B2
Ethyl 6-iodohexanoate
To 112 ml of a solution of 13.38 g of ethyl 6-bromohexanoate in acetone, 26.97 g of sodium iodide was added and heated to reflux for 18 hours. The reaction solution was cooled, filtered to remove insolubles and washed with acetone. The filtrate was concentrated and, after addition of water, extracted with ethyl acetate. The organic layer was washed with water and brine sequentially, dried over anhydrous magnesium sulfate and concentrated to provide 16.21 g of the objective compound as red-yellow oil.

reactant | ethyl 6-bromohexanoate | 13.38 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | sodium iodide | 26.97 g | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 6-iodohexanoate | 16.21 g | ICCCCCC(=O)OCC | C8H15IO2
